US08293897B2
N-(4-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a solution of N-(3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (200 mg, 0.389 mmol) in DMA (2 mL) was added 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate (193 mg, 0.778 mmol) and Cs2CO3 (379 mg, 1.167 mmol). The reaction was then stirred at rt for 40 hrs. The solvent was removed and the residue was partioned between saturated NaHCO3 aqueous solution (10 mL) and CHCl3 (30 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered and concentrated in vacuo and the residue was purified by a silica gel column chromatography (100:15:1(v/v/v)EtOAc/CH3OH/Et3N) to afford the desired compound as a pale yellow solid (171 mg, 66%).

reactant | N-(3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.389 mmol, 200 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C28H23FN4O5
reactant | 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate | 0.778 mmol, 193 mg | CS(=O)(=O)OCCCN1CC2(CC2)C(C1)O | C10H19NO4S
reactant | Cs2CO3 | 1.167 mmol, 379 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 171 mg, 66% | OC1CN(CC12CC2)CCCOC2=C(C=C1C(=CC=NC1=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O)F)OC | C37H38FN5O6
